US04806552
N-[[[1-[(6-Fluoro-2-naphthalenyl)methyl]-4-piperidinyl]amino]carbonyl]-4-pyridinecarboxamide
A mixture of 4-amino-1-[(6-fluoro-2-naphthalenyl)methyl]piperidine (1.3 g, 5 mmol), 4-pyridoylurea (0.9 g, 5 mmol) and pyridine (6 ml) was stirred at reflux for 16 hours. The solution was diluted with water (8 ml) and the precipitated dark brown product collected by filtration to give 1.5 g. The crude product was dissolved in chloroform (25 ml), shaken with decolourising charcoal, filtered and evaporated. The residue was suspended in hot ethanol (20 ml) and succinic acid (0.44 g) added to give a clear solution which crystallised on standing. The product crystals were collected by filtration and washed with ethanol to give the succinate salt of the title compound. m.p. 187°-188° C.

reactant | 4-amino-1-[(6-fluoro-2-naphthalenyl)methyl]piperidine | 5 mmol, 1.3 g | NC1CCN(CC1)CC1=CC2=CC=C(C=C2C=C1)F | C16H19FN2
reactant | 4-pyridoylurea | 5 mmol, 0.9 g | N1=CC=C(C=C1)C(=O)NC(=O)N | C7H7N3O2
reactant | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
reactant | charcoal | C | CH4
solvent | water | 8 ml | O | H2O
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[[[1-[(6-Fluoro-2-naphthalenyl)methyl]-4-piperidinyl]amino]carbonyl]-4-pyridinecarboxamide | FC=1C=C2C=CC(=CC2=CC1)CN1CCC(CC1)NC(=O)NC(=O)C1=CC=NC=C1 | C23H23FN4O2
